Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
n/a
 
History of Present Illness:
___ year old man with a history of atrial fibrillation (not on
warfarin, stopped 3 weeks ago due to falls), prostate cancer s/p
TURP (___), HTN, HLD, mild dementia, transferred from ___ with bright red blood per rectum.

Importantly, patient's ED history states that he has a history 
of
PE and bioprosthetic valve, however he and his family (wife, 
son,
daughter) all state that neither of these are the case and that
he has no valvular issues known to them.

Per patient's wife, he was on warfarin until the beginning of
___. It was stopped by his outpatient doctors ___ to ___
falls at home.

Around ___, after the warfarin was stopped, patient began having
hematochezia. He was admitted to ___ for
evaluation. Per family report, he had a colonoscopy that showed
diverticulosis and internal hemorrhoids, which were thought to 
be
the cause. He continued to have bleeding throughout the hospital
stay. His hgb was in the ___ range. The bleeding decreased, but
never stopped. He was discharged to rehab.

While at rehab he continued to have hematochezia. He was
discharged from rehab about 2 days prior to this current
admission. At home the bleeding continued and was slightly
increased. ___ was unable to draw labs so he was sent to ___ lab where his hgb was 9.2. He was then referred 
to
that ___'s ED, where his hgb was 8.3. Per limited paperwork
sent with him it appears he was otherwise hemodynamically stable
with BPs in the 150s/90s. He was transfused 1 unit PRBCs at that
time, but it is not clear what the indication was give hgb of 
8.3
and stable vital signs.

Per patient's family, they were told that that it was necessary
to transfer patient to ___ for more advanced GI evaluation. 
He
was then transferred to ___.

In the ED, vital signs were stable. Labs notable for hgb 9.2, 
INR
1.0, Cr 1.5 (unknown baseline, but stable from OSH). He was
admitted for further evaluation of GI bleed.

 
Past Medical History:
Atrial fibrillation (not on warfarin)
Prostate cancer s/p TURP (___)
HTN
HLD
Mild dementia
 
Social History:
___
Family History:
Mother: Died age ___ after hip fracture
Father: Died in his ___ of CVA
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vital signs: T 97.8, BP 150/73, P 54, RR 16, O2 98 RA 
Gen: Well appearing, in no apparent distress
HEENT: NCAT, oropharynx clear
Lymph: no cervical lymphadenopathy
CV: No JVD present, irregular rate and rhythm, ___ SEM in RUSB
Resp: CTA bilaterally in anterior and posterior lung fields, no
increased work of breathing
GI: soft, non-tender, non-distended. No hepatosplenomegaly
appreciated.
GU: No suprapubic tenderness
Extremities: no clubbing, cyanosis, or edema
Neuro: no focal neurologic deficits appreciated. Moves all 4
extremities purposefully and without incident, no facial droop.
Psych: Euthymic, speech non-tangential, appropriate
=============================================
DISCHARGE PHYSICAL EXAM: 
Vital signs: 98.1
PO 156 / 77 65 18 94 RA 
Gen: Well appearing, in no apparent distress
HEENT: NCAT, oropharynx clear
CV: No JVD present, irregularly irregular rhythm, ___ SEM in 
RUSB
Resp: CTA bilaterally 
GI: soft, non-tender, non-distended. No hepatosplenomegaly 
appreciated.
Extremities: no clubbing, cyanosis, or edema
Neuro: no focal neurologic deficits appreciated. Moves all 4 
extremities purposefully and without incident, no facial droop.
Psych: full range of affect
 
 
Pertinent Results:
ADMISSION LABS: 

___ 07:30AM   WBC-5.5 RBC-2.77* HGB-9.0* HCT-27.2* MCV-98 
MCH-32.5* MCHC-33.1 RDW-14.1 RDWSD-50.7*
___ 07:30AM   PLT COUNT-367
___ 11:21PM URINE  HOURS-RANDOM
___ 11:21PM URINE  UHOLD-HOLD
___ 11:21PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:21PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 10:53PM   GLUCOSE-85 UREA N-36* CREAT-1.5* SODIUM-131* 
POTASSIUM-4.7 CHLORIDE-98 TOTAL CO2-19* ANION GAP-19
___ 10:53PM   estGFR-Using this
___ 10:53PM   ALT(SGPT)-10 AST(SGOT)-19 ALK PHOS-46 TOT 
BILI-0.4
___ 10:53PM   ALBUMIN-3.5
___ 10:53PM   WBC-6.0 RBC-2.78* HGB-9.2* HCT-27.5* MCV-99* 
MCH-33.1* MCHC-33.5 RDW-14.0 RDWSD-50.4*
___ 10:53PM   NEUTS-49.2 ___ MONOS-15.1* EOS-8.2* 
BASOS-1.3* IM ___ AbsNeut-2.96 AbsLymp-1.53 AbsMono-0.91* 
AbsEos-0.49 AbsBaso-0.08
___ 10:53PM   PLT COUNT-414*
___ 10:53PM   ___ PTT-26.3 ___

Notable for hgb 9.2 (up from 8.3 at OSH pre-transfusion),
Creatinine 1.5 (unknown baseline, but stable from OSH), Na 131
===============================================================
DISCHARGE LABS: 

___ 08:30AM BLOOD WBC-7.1 RBC-3.30* Hgb-10.9* Hct-32.5* 
MCV-99* MCH-33.0* MCHC-33.5 RDW-13.9 RDWSD-49.9* Plt ___
___ 06:35AM BLOOD WBC-6.1 RBC-2.98* Hgb-9.8* Hct-29.4* 
MCV-99* MCH-32.9* MCHC-33.3 RDW-13.7 RDWSD-49.1* Plt ___
___ 08:35AM BLOOD WBC-6.3 RBC-3.12* Hgb-10.4* Hct-31.2* 
MCV-100* MCH-33.3* MCHC-33.3 RDW-14.0 RDWSD-50.9* Plt ___
___ 08:30AM BLOOD Plt ___
___ 08:30AM BLOOD ___
___ 06:35AM BLOOD Glucose-93 UreaN-24* Creat-1.2 Na-133 
K-4.6 Cl-99 HCO3-21* AnGap-18
___ 08:35AM BLOOD Glucose-91 UreaN-21* Creat-1.2 Na-132* 
K-5.0 Cl-97 HCO3-22 AnGap-18
___ 10:53PM BLOOD ALT-10 AST-19 AlkPhos-46 TotBili-0.4
___ 06:35AM BLOOD Calcium-9.7
 
Brief Hospital Course:
Ms. ___ is a ___ year old man with a history of atrial 
fibrillation (no longer on warfarin, stopped 3 weeks PTA due to 
falls), prostate cancer s/p TURP (___), HTN, HLD, mild 
dementia, recently discharged to rehab from OSH ___ for the same 
s/p colonoscopy ___ - diverticulosis + hemorrhoids seen, no 
active bleeding); transferred from ___ with 
ongoing bright red blood per rectum. 

Has passed intermittent small volumes of bright red blood this 
admission. Discussed with GI and most likely source remains 
hemorrhoidal. No utility in repeat colonoscopy at this time. HD 
stable. he continues to have intermittent dark stools (and 
patient is on po iron) but not frank melena and H/h remain 
stable. he also continues to have very small amounts of bright 
red blood when he wipes, which is most likely hemorrhoidal and 
self-limiting. 

he was seen by ___ who recommended rehab. he was kept inpatient 
while he was screened by rehab facilities and ongoing physical 
therapy. On ___, he decided he no longer wanted to go to rehab 
and will be discharged home with services. I spoke with the 
physical therapist who reevaluated him on the day of discharge 
and agreed that he has made improvements in mobility and 
anticipated stay at rehab would be very short anyway and he is 
close to his baseline.  

Today he feels "great", no complaints. His stool he says, while  
dark, continues to become more brown every day. Has small 
amounts of bright red blood on the toilet paper but this is 
becoming less often. he denies sob, chest pain, nausea, 
vomiting, diarrhea. We spoke with his wife and communicated the 
plan, and all were in agreement. 

Rest of hospital course and plan are outlined below by issue: 

#ACUTE BLOOD LOSS ANEMIA, due to
#GASTROINTESTINAL BLEEDING:
Most likely due to diverticulosis or hemorrhoids given recent
colonoscopy findings (though report not available for review at
this time). No longer on anticoagulation, though it seems this
was stopped due to falls, not bleeding. Recent colonoscopy on 
___ at ___ - ___ report showed normal 
cecum, severe diverticulosis (no active bleeding) of sigmoid and 
descending colon and also noted internal hemorrhoids(no 
intervention), also internal hemorrhoids (hemorrhoids were 
mentioned as the "most likely" source of the bleeding). 
-Notably, colorectal surgery had been consulted during recent 
hospitalization and recommended no surgery at that time and thus 
repeat inpatient CRS evaluation is not needed. Furthermore, the 
patient and his family are fairly adamant that surgery is not an 
option, at least at this time.  He will be referred for 
outpatient CRS consultation to discuss banding and/or 
hemorrhoidectomy.
-Given that bleeding has continued since ___ without any 
resolution, reasonable to undergo colonoscopy again to assess 
for lesions amenable to
intervention.
-No IV PPI started since UGIB was very unlikely
-continued antihypertensives since currently SBP>150
-continuing Colace
-INR was rechecked and is 1.0 off of Coumadin.
-continue PO iron replacement

#ATRIAL FIBRILLATION:
-Continue metoprolol 12.5mg bid
-continue holding anticoagulation as above. 

#HYPERTENSION:
-Continue felodipine
-Continue metoprolol

#HYPERLIPIDEMIA:
-Continue simvastatin
-Continue fenofibrate
-Continue fish oil

#PROSTATE CANCER s/p TURP:
-Continue enzalutamide 160mg qd (has own med)

#IRON-DEFICIENCY ANEMIA:
-Continue ferrous gluconate

#VITAMINS
-Continue MVI, Vit C

#Transitional Issues: 
-surgery referral as outpatient for consideration for 
hemorrhoidal surgery. 
-F/u with outpatient oncologist

#Code: DNR/DNI (confirmed)

#CONTACTS: HCP/Contact: Wife, ___ (___)
-___: had family meeting with wife ___, her son, and the 
patient at bedside and confirmed code status, also reviewed plan 
of care including not to have colonoscopy at this time. All were 
in agreement with the plan. 
-___: called wife ___ again, no answer, left a voicemail 
updating on plan including ___ recommending rehab for him. 

Consults: GI

Dispo: Recently discharged home from rehab. ___ consulted and 
recommending rehab again however patient declined, recognizing 
the risks. Will discharge home with services including ___ 
instead. medically ready for discharge. 

Spent > 30 minute seeing the patient and organizing discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. Tamsulosin 0.4 mg PO QHS 
3. Metoprolol Tartrate 12.5 mg PO BID 
4. Fenofibrate 48 mg PO QHS 
5. Felodipine 10 mg PO DAILY 
6. Xtandi (enzalutamide) 160 mg oral DAILY 
7. Anucort-HC (hydrocorTISone Acetate) 25 mg rectal QHS 
8. Memantine 10 mg PO BID 
9. Denosumab (Prolia) 60 mg SC Q6MONTHS 
10. Trelstar (triptorelin pamoate) 22.5 mg injection Q6MONTHS 
11. glucosamine-chondroitin 250-200 mg oral DAILY 
12. Ferrous GLUCONATE 324 mg PO DAILY 
13. Docusate Sodium 100 mg PO QHS 
14. Senna 17.2 mg PO QHS:PRN constipation 
15. Ascorbic Acid ___ mg PO DAILY 
16. Fish Oil (Omega 3) 1000 mg PO DAILY 
17. Vitamin E 400 UNIT PO DAILY 
18. Multivitamins 1 TAB PO DAILY 
19. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
20. TraMADol 50 mg PO BID:PRN Pain - Moderate 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Anucort-HC (hydrocorTISone Acetate) 25 mg rectal QHS  
3.  Ascorbic Acid ___ mg PO DAILY  
4.  Denosumab (Prolia) 60 mg SC Q6MONTHS  
5.  Docusate Sodium 100 mg PO QHS  
6.  Felodipine 10 mg PO DAILY  
7.  Fenofibrate 48 mg PO QHS  
8.  Ferrous GLUCONATE 324 mg PO DAILY  
9.  Fish Oil (Omega 3) 1000 mg PO DAILY  
10.  glucosamine-chondroitin 250-200 mg oral DAILY  
11.  Memantine 10 mg PO BID  
12.  Metoprolol Tartrate 12.5 mg PO BID  
13.  Multivitamins 1 TAB PO DAILY  
14.  Senna 17.2 mg PO QHS:PRN constipation  
15.  Simvastatin 20 mg PO QPM  
16.  Tamsulosin 0.4 mg PO QHS  
17.  TraMADol 50 mg PO BID:PRN Pain - Moderate  
18.  Trelstar (triptorelin pamoate) 22.5 mg injection Q6MONTHS  
19.  Xtandi (enzalutamide) 160 mg oral DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
acute blood loss anemia
rectal bleeding
diverticulosis
hemorrhoidal bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
D/C Instructions: 

 

Dear Mr. ___, 
 You were hospitalized at ___. 

 

Why were you in the hospital?
 =======================
 -rectal bleeding

 

 

What did we do for you?
 =======================
 - we continued to hold your coumadin
 - you were evaluated by gastroenterology however there was no 
utility in repeating a colonoscopy as the bleeding was most 
likely either hemorrhoidal or diverticular, neither of which are 
amenable to intervention by endoscope. 

 

 

What do you need to do?
 =======================
 - you have been referred to see a surgeon to see if there is 
anything that can be done about your hemorrhoids, since they are 
likely to bleed again (however bleeding from hemorrhoids is 
rarely severe).

 

 

 Please follow up with your primary care doctor.

 

It was a pleasure taking care of you. We wish you the best!

Sincerely,
 Your ___ Medicine Team 

 
Followup Instructions:
___